US04048311
Reaction of methyl 3-sulfopropyldithiocarbamate potassium salt with sodium azide as described in Example 7 gave 1-(3-sulfopropyl)tetrazole-5-thiol.

reactant | methyl 3-sulfopropyldithiocarbamate potassium salt | [K].S(=O)(=O)(O)CCCNC(SC)=S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 1-(3-sulfopropyl)tetrazole-5-thiol | S(=O)(=O)(O)CCCN1N=NN=C1S | C4H8N4O3S2
